US09233979B2
Step 3: tert-butyl(4,6-dichloro-5-cyanopyridin-2-yl)carbamate
To a stirred solution of compound tert-butyl(4,6-dichloro-5-formylpyridin-2-yl)carbamate (3.0 g, 10.3 mmol) in THF (30.0 mL) was added diisopropylethylamine (2.76 mL, 15.4 mmol) followed by hydroxylamine hydrochloride (0.78 g, 11.3 mmol) at 0° C. and was stirred at room temperature for 3 h. After confirming the completion of starting material by TLC, the reaction mixture was diluted with water and extracted with ethyl acetate. The organic layer was washed with brine, dried over anhydrous Na2SO4, filtered, concentrated under reduced pressure to get crude product. To the crude product was added trichloroacetonitrile (30.0 mL) and was heated at 85° C. for 2 h. After confirming the completion of starting material by TLC, the reaction mixture was cooled to room temperature and concentrated under reduced pressure. The residue was purified by column chromatography (hexanes:ethyl acetate=9:1) to afford product. 1H NMR (ppm, 400 MHz, DMSO-d6): δ 11.08 (s, 1H), 8.02 (s, 1H), 1.46 (s, 9H), MS ES calc'd. for C11K11C12N3O2 [M+H]+ 288. Found 288.

reactant | tert-butyl(4,6-dichloro-5-formylpyridin-2-yl)carbamate | 10.3 mmol, 3.0 g | C(C)(C)(C)OC(NC1=NC(=C(C(=C1)Cl)C=O)Cl)=O | C11H12Cl2N2O3
reactant | diisopropylethylamine | 15.4 mmol, 2.76 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | hydroxylamine hydrochloride | 11.3 mmol, 0.78 g | Cl.NO
reactant | trichloroacetonitrile | 30.0 mL | ClC(C#N)(Cl)Cl | C2Cl3N
solvent | THF | 30.0 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | tert-butyl(4,6-dichloro-5-cyanopyridin-2-yl)carbamate | C(C)(C)(C)OC(NC1=NC(=C(C(=C1)Cl)C#N)Cl)=O | C11H11Cl2N3O2
